2141-04-10 09:34:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, hypotension, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo F with Crohn's ds, chronic steroids, RUE DVT with progressive
   pancytop/neutropenia  from mtx toxicity presents with respiratory
   failure, hypotension, altered mental status/unresponsiveness
   24 Hour Events:
 PICC LINE - START [**2141-4-10**] 12:26 AM
 MULTI LUMEN - START [**2141-4-10**] 01:22 AM
 ARTERIAL LINE - START [**2141-4-10**] 01:23 AM
 MULTI LUMEN - START [**2141-4-10**] 06:30 AM
   hypoxia and hypotension with progressive altered MS prompting transfer
   to ICU
   broadened antibx--> cefepine, vanco, caspo (on TPN)
   fem line and a-line lalced--> converted to R IJ this am (cvp 6)
   stress dose steroids given
   old picc d/c'd
   intubated for hypoxic resp failure
   aggressive IVF's
   escalating pressor requirements
   seizure activity with L gaze and RUE twitching overnight
   ctp--neg for pe, b/l upper lobe nodules
   echo ordered
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Remicade (Intraven.) (Infliximab)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2141-4-10**] 05:00 AM
   Caspofungin - [**2141-4-10**] 07:48 AM
   Vancomycin - [**2141-4-10**] 08:38 AM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2141-4-10**] 08:21 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   atovaquone, nascolol, hydrocort, levophed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2141-4-10**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35
C (95
   HR: 93 (92 - 100) bpm
   BP: 117/79(94) {77/49(59) - 131/82(101)} mmHg
   RR: 29 (7 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 11 (6 - 11)mmHg
   Total In:
                                                                  4,563 mL
   PO:
   TF:
   IVF:
                                                                  4,504 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     15 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,548 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.38/23/182/18/-9
   Ve: 13.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Thin, cachectic F, unresponsive
   Eyes / Conjunctiva: No(t) Conjunctiva pale, mild  Sclera edema,
   icteric, dilated pupils,
   Head, Ears, Nose, Throat: Normocephalic, without gag
   Cardiovascular: (S1: Normal), (S2: Normal) no murmur
   Peripheral Vascular: (Right radial pulse:present), (Left radial pulse:
   present (Right DP pulse:present ), (Left DP pulse: present)
   Abdominal: Distended, tympanitic, + BS
   Extremities: edematous,  Right: 2+, Left: 2+, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  without rash
   Neurologic: No(t) Attentive, unresponsive Movement: Non -purposeful,
   but movement of hand/squeeze assessed, withdraws to sternal rub,
   Sedated, Tone: unable to assess
   Labs / Radiology
   11.2 g/dL
   10 K/uL
   67 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   54 mg/dL
   112 mEq/L
   143 mEq/L
   33.9 %
   1.4 K/uL
        [image002.jpg]
                             [**2141-4-10**]  03:07 AM
                             [**2141-4-10**]  04:45 AM
                             [**2141-4-10**]  08:39 AM
   WBC
   1.4
   Hct
   33.9
   Plt
   10
   Cr
   1.2
   TCO2
   17
   14
   Glucose
   67
   Other labs: PT / PTT / INR:16.8/83.8/1.5, ALT / AST:47/205, Alk Phos /
   T Bili:52/5.4, Lactic Acid:3.1 mmol/L, Albumin:1.4 g/dL, LDH:877 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: cxr--R IJ and ET ok, b/l effusions , rotated
   CTP--neg central PE, B/l effusions, compr atelectasis, scattered gg,
   nodules upper zones b/l
   Microbiology: no new data--pan cx'd
   Assessment and Plan
   61 yo F w/ Crohn
s ds, short gut syndrome, chronic steroid dependence,
   on TPN, course c/b recent significant GIB treated with MTX, with MTX
   toxicity and Pancytopenia/neutropenia transferred from floor with
   altered mental status/unresponsiveness,  respiratory failure,
   hypotensionrequiring escalating pressor support, new sz activity now
   with new dilated pupils concerning for worsening/acute CNS process
   Developing MOSF
   Main issues include:
   # shock- likely septic with multiple infectious risk including
   Pancytopenia, neutropenia chronic steroids, TPN--?  pna, line infection
   (picc now out) fungal infection, GI source
        Hypovolemia/blood loss also contributing with
   Pancytopenia/thrombocytopenia/anemia, abnl coags ? DIC
   -continue broad antibx coverage cefepime, vanco, flagyl, caspo, ( d/c
   fluconazole)
   - trend lactate, SVO2
   -stress does steroids
   -pressor support, IVF/Colloid for CVP > 10, SVO2 > 70%, correction of
   coagulopathy and for plts >50,
   -check DIC labs
   -TTE
   # Respiratory failure-likely from sepsis and altered ms
   [**Name13 (STitle) 616**] neg for central PE Has increased A-a gradient but with stable
   PIPs/PLT pressures,
   can decrease FIO2 to maintain sats > 90, pao2 > 60
   empiric antbx
   has b/l effusions, likely from  third spacing from poor nutritional
   status, check echo for pump and veggiues given ? septic emboli on CT,
   though distribution atypical for SBE
   #  neuro status
unresponsiveness, sz activity, now with dilated pupils
    Benzos, neuro c/s, likely load dilantin
   Stat repeat head ct given dilated pupils
is at high risk for bleed
   given thrombocytopenia and coagulapathy
   Correct blood counts--,FFP plt and vit K
   Neuro checks
   # ARF-anuric,
   likely atn from sepsis + prerenal/hypovolemia and sepsis
   check smear, urine eos,
   aggressive fluid bolus,
   renally dose meds,
   check abd compartments though low suspicion of abd compartment syndrome
   (without elevated PIPS/Plt pressures on vent))
   #Anemia
concern for hemolysis, DIC, bleeding from gut, now oozing from
   fem line site after line d/c
   Aggressive colloid transfusions, serial h/h
   GI input, consider CT abd to eval for RP bleed though seems less likely
   than GI
   #neutropenia
precautions, NPO
   Continue PCP [**Name Initial (PRE) 617**]
   #transaminitis
follow, now possibly w/ shock liver [**12-31**] hypotension
   #Crohn's--holding meds [**12-31**] neurotropenia
   #FEN--holding TPN for now, serial labs
   #FAMILY contacts--aware of poor prognosis and now multi-organ system
   failure, continue to update, address goals of care
   ICU Care
   Nutrition:
   Comments: NPO, TPN
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2141-4-10**] 12:26 AM
   Arterial Line - [**2141-4-10**] 01:23 AM
   Multi Lumen - [**2141-4-10**] 06:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   Head CT with diffuse edema and possible watershed infarcts (appears
   most c/w hypoxia/hypotensive picture with ? thrombotic component.
   Neuro consulted.  Loading dilantin, giving mannitol (following osms),
   increasing rate on vent to induce alkalosis, HOB elevated to decrease
   ICP.  EEG ordered.
   Met with patient
s family for 25 minutes after am rounds.  Updated them
   regarding patient
 condition, MOSF.  Family understands that pt is
   critically ill requiring aggressive life support with ventilator,
   pressors for BP support, now in ARF, and with altered MS with ? of
   hypoxic/hypotnesive CNS injury as well as sz activity.  All questions
   were answered.  Will continue to update family of any changes in
   status.  Neuro team consulted and await additional input.  Patient
   remains a full code.
   650pm
   Exam progressively worse over course of day, without corneal reflexes
   and no longer responds to sternal rub.  Had extensive discussion with
   family, GI Dr [**First Name4 (NamePattern1) 618**] [**Last Name (NamePattern1) **], and neurology  DR [**First Name8 (NamePattern2) 619**] [**Last Name (NamePattern1) 620**].  Family
   updated and they are aware of poor prognosis.  However, it is still
   unclear  is to the  etiology of CNS findings as pt was not hypotensive
   or hypoxic for prolonged time and initial head CT last night was
   negative for such findings.  Neuro feels that MRI will be helpful in
   further assessing potential reversibility, though prognosis is poor.
   MRI ordered and await EEG results.  Will keep family updated as to any
   change in condition.  Code status readdressed and pt remain full code
   pending further assessment of neuro status with additional studies as
   noted.
   I spent additional 25 minutes Critical care time

2141-04-10 10:57:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 612**] is a 61F with a PMH s/f Crohn's disease on
   chronic steroids, RUE DVT, and pancytopenia secondary to MTX toxicity
   who presents to the ICU with hypoxia and hypotension.  Now with new
   neurologic changes
   24 Hour Events:
 PICC LINE - START [**2141-4-10**] 12:26 AM
 MULTI LUMEN - START [**2141-4-10**] 01:22 AM
 ARTERIAL LINE - START [**2141-4-10**] 01:23 AM
 MULTI LUMEN - START [**2141-4-10**] 06:30 AM
   -Inital CT head negative for acute changes
   -CTA negative for PE
   -Required initiation of a second pressor- neosynephrine
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Remicade (Intraven.) (Infliximab)
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2141-4-10**] 05:00 AM
   Caspofungin - [**2141-4-10**] 07:48 AM
   Vancomycin - [**2141-4-10**] 08:38 AM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2141-4-10**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-10**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.2
C (95.4
   HR: 77 (77 - 100) bpm
   BP: 128/83(100) {77/49(59) - 131/83(101)} mmHg
   RR: 28 (7 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 11 (6 - 11)mmHg
   Total In:
                                                                  6,076 mL
   PO:
   TF:
   IVF:
                                                                  5,713 mL
   Blood products:
                                                                    304 mL
   Total out:
                                                                      0 mL
                                                                     25 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,051 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.38/23/182/18/-9
   Ve: 13.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Eyes / Conjunctiva: Pupils dilated, Pupils fixed and dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic), regular rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: Coarse ventilated breath sounds
   Abdominal: No(t) Soft, Bowel sounds present, Distended, Firm,
   distended, tympanitic throughout with left side fullness
   Extremities: Right: 3+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   10 K/uL
   11.2 g/dL
   67 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   54 mg/dL
   112 mEq/L
   143 mEq/L
   33.9 %
   1.4 K/uL
        [image002.jpg]
                             [**2141-4-10**]  03:07 AM
                             [**2141-4-10**]  04:45 AM
                             [**2141-4-10**]  08:39 AM
   WBC
   1.4
   Hct
   33.9
   Plt
   10
   Cr
   1.2
   TCO2
   17
   14
   Glucose
   67
   Other labs: PT / PTT / INR:16.8/83.8/1.5, ALT / AST:47/205, Alk Phos /
   T Bili:52/5.4, Lactic Acid:3.1 mmol/L, Albumin:1.4 g/dL, LDH:877 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: CTA prelim read: No PE. Moderate bilateral pleural effusions
   with moderate bibasilar
   atelectasis. No consolidation. Multiple nodular densities within the
   upperlobes DDx--Crohns related nodules, septic emboli, infection
   CT Head: per radiology resident diffuse cerebral edema
   Microbiology: Blood cultures pending
   Assessment and Plan
   Ms. [**Known lastname 612**] is a 61F with a PMH s/f Crohn's disease on chronic steroids,
   RUE DVT, and pancytopenia secondary to MTX toxicity who presents to the
   ICU with hypoxia and hypotension.  Now with new neurologic changes.
   .
   .
   # Hypotension/Shock: Differential includes (1) septic shock, where
   potential sources include PNA given RLL infiltrate, PICC line, skin
   breakdown, fungemia as the patient is neutropenic and on TPN; (2)
   Hypovolemic in the setting of GIB; (3) Cardiogenic given known hx of
   HTN and possible diastolic dysfunction, no echo in the system; (4)
   Pulmonary embolism given hypoxia and known RUE DVT and new RBBB on
   EKG.  THe patient is currently maintaining MAPs >65 on levophed.  CTA
   negative for an acute PE, showing multiple bilateral upper lobe
   nodules.  Prelim ddx on report includes crohn's nodules, septic emboli,
   and infectious.  PICC line removed.
   -Pan culture
   -Levophed and neosynephrine to maintain MAP >60, Fluid boluses to
   maintain UOP >30cc/hr
   -PNA is also very high on our differential, so we will continue broad
   abx coverage with vanc/cefepime/caspofungin
   - stress dose steroids for hypotension not responsive to fluids in pt
   on chronic steroid
   -Echo when more stable
   .
   .
   # Respiratory distress: CTA negative for PE, likely secondary to PNA.
   -Broad spectrum abx for HAP in a  neutropenic host, as indicated above
   -Daily CXRs
   - wean FiO2 as tolerates, with increase in PEEP if necessary, to keep
   PaO2 >60.
   .
   .
   # New neurologic changes: Patient developed new bilateral fixed dilated
   pupils in the setting of new seizure activity.  CT head showing diffuse
   edema.  Possible etiologies include anoxic brain injury, and ischemic
   insult.
   -Neuro consult
   -Will start hyperventilation with goal pCO2 of 23, and mannitol with
   goal serum osm of >320.
   -MRI to further evaluate
   .
   .
   # RLL infiltrate: In a chronically hospitalized neutropenic patient
   -Continue broad spectrum abx as above
   .
   .
   # Neutropenia: ANC 80, secondary to MTX toxicity
   -Neutropenic precautions
   -Heme/onc recs
   -Continue broad coverage for PNA
   .
   .
   # Thrombocytopenia: platelets 18 with MTX toxicity on admission, now 10
   with active mucosal bleeding
   -Transfusing two units of platelets
   -Transfuse <50 for active bleeding or otherwise <10
   -This may make anticoagulation difficult should her CTA come back
   positive.
   .
   .
   # Coagulopathy: elevated PT/INR, ddx includes DIC in the setting of
   sepsis
   -Monitor q4H DIC labs
   -Transfuse two units FFP, cryo for fibrinogen <100
   .
   .
   # ARF: ATN in the setting of hypotension vs. pre-renal failure
    -IVF to keep CVP >12
   -Urine lytes
   .
   .
   # Diffuse mucositis
   - Gelclair
   - Mycelex
   - Diflucan
   .
   .
   # Crohn's disease: Complicated by a rectovaginal fistula and chronic
   blood loss anemia
   -Holding humira in the setting of neutropenia
   -GI consulting
   .
   .
   # Hypertension
   -Holding BP meds in the setting of Hypotension
   -Echo when stable
   .
   .
   # FEN
   -Fluids to keep UOP >30cc/hr
   -Had been on TPN, will hold for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-10**] 12:26 AM
   Arterial Line - [**2141-4-10**] 01:23 AM
   Multi Lumen - [**2141-4-10**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-04-11 07:25:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 612**] is a 61F with a PMH s/f Crohn's disease on
   chronic steroids, RUE DVT, and pancytopenia secondary to MTX toxicity
   who presents to the ICU septic shock, respiratory failure and diffuse
   ischemic brain injury.
   24 Hour Events:
 PICC LINE - STOP [**2141-4-10**] 08:05 AM
 MULTI LUMEN - STOP [**2141-4-10**] 12:05 PM (femoral line)
 Pan cultured, results pending
 EEG - At [**2141-4-10**] 03:01 PM, results pending
 MAGNETIC RESONANCE IMAGING - At [**2141-4-10**] 08:30 PM: preliminary read
   discussed with both rads and neuro shows diffuse cortical edema consist
   with global ischemia. The DDX includes hypoxia, hypotension, metabolic,
   the overall prognosis is extremely grim, i.e. she will not recover
   -Loaded with Dilantin
   -Mannitol (held dose o/n due to serum osm 317), HOB elevation
   -ABG: mantained hyperventilated
   -Transfused 3 units RBC, 3 units plt, 4 FFP, DIC labs stable
   -Weaned off pressors, CVP and MAPs at goal
   -Put in for TTE
   -Poor UOP likely ATN
   -Hematemesis overnight
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Remicade (Intraven.) (Infliximab)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2141-4-10**] 08:38 AM
   Caspofungin - [**2141-4-10**] 07:54 PM
   Cefipime - [**2141-4-11**] 05:21 AM
   Metronidazole - [**2141-4-11**] 06:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-10**] 08:00 AM
   Midazolam (Versed) - [**2141-4-10**] 08:21 AM
   Other medications:
   Dilantin loaded
   Leucovorin
   Mannitol- held
   Thiamine
   Hydrocortisone
   PPI
   ISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-11**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.2
C (95.4
   Tcurrent: 34.6
C (94.3
   HR: 67 (65 - 94) bpm
   BP: 99/64(78) {70/49(58) - 152/91(116)} mmHg
   RR: 22 (22 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 13 (6 - 15)mmHg
   Total In:
                                                                  9,908 mL
                                                                  1,083 mL
   PO:
   TF:
   IVF:
                                                                  7,857 mL
                                                                    525 mL
   Blood products:
                                                                  1,992 mL
                                                                    558 mL
   Total out:
                                                                     80 mL
                                                                     15 mL
   Urine:
                                                                     80 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,828 mL
                                                                  1,068 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.41/15/119/10/-11
   Ve: 10.7 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Intubated, non-responsive
   Eyes / Conjunctiva: Fixed dilated pupils bilaterally, with scleral
   icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), regular rhythm, normal
   rate
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), coarse ventilated breath
   sounds
   Abdominal: Soft, No(t) Bowel sounds present, Distended, Tympanitic
   throughout
   Extremities: Right: 3+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   51 K/uL
   11.4 g/dL
   96 mg/dL
   0.9 mg/dL
   10 mEq/L
   4.4 mEq/L
   65 mg/dL
   111 mEq/L
   140 mEq/L
   31.5 %
   0.6 K/uL
        [image002.jpg]
                             [**2141-4-10**]  01:55 PM
                             [**2141-4-10**]  03:32 PM
                             [**2141-4-10**]  05:48 PM
                             [**2141-4-10**]  07:35 PM
                             [**2141-4-10**]  07:43 PM
                             [**2141-4-10**]  10:53 PM
                             [**2141-4-11**]  12:19 AM
                             [**2141-4-11**]  12:29 AM
                             [**2141-4-11**]  03:09 AM
                             [**2141-4-11**]  04:51 AM
   WBC
   0.5
   0.6
   Hct
   20.3
   30.1
   31.4
   31.5
   Plt
   62
   37
   62
   51
   Cr
   1.4
   1.4
   1.5
   0.9
   TCO2
   11
   11
   10
   10
   10
   10
   Glucose
   97
   99
   91
   96
   Other labs: PT / PTT / INR:18.1/40.9/1.7, ALT / AST:148/775, Alk Phos /
   T Bili:83/10.8, Differential-Neuts:6.0 %, Band:23.0 %, Lymph:12.0 %,
   Mono:8.0 %, Eos:0.0 %, D-dimer:6836 ng/mL, Fibrinogen:625 mg/dL, Lactic
   Acid:5.8 mmol/L, Albumin:2.5 g/dL, LDH:1188 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.3 mg/dL
   Fluid analysis / Other labs: Lactate: 5.8
   Osm: 318
   Imaging: MRI: final read pending, per discussion with radiologist
   diffuse cortical edema consist with global ischemia
   EEG: pending
   Microbiology: Urine and blood cultures from [**4-10**]: NGTD
   Sputum sample not adequate
   Assessment and Plan
   Ms. [**Known lastname 612**] is a 61F with a PMH s/f Crohn's disease on chronic steroids,
   RUE DVT, and pancytopenia secondary to MTX toxicity who presents to the
   ICU septic shock, respiratory failure, and global cortical ischemia
   # Hypotension/Shock: Given neutropenic status, bandemia and RLL
   infiltrate, this is likely septic shock from PNA.  Other possible
   sources are her PICC line and fungemia given her risk factors.  PICC
   ine removed and broadly covered for neutropenic fever/ fungemia.  CTPA
   negative for PE, showing bilateral pulmonary nodules ddx on report
   includes crohn's nodules, septic emboli, and infectious.  Pan cultured,
   results pending.  Currently CVP and MAP are at goal, weaned off
   levophed and neosynephrine.
   -Continue IVF to keep CVP >12, add back pressors for MAP <65
    -follow up micro
   -continue broad abx coverage with vanc/cefepime/caspofungin
   - stress dose steroids
   -Echo when more stable
   # Respiratory distress: CTA negative for PE, likely secondary to PNA.
   7.4/16/121 on 500x20 with PEEP 8 and FIO2 of 40%.  This is at our goal
   of pCO2 for cerebral edema.
   -Broad spectrum abx for HAP in a  neutropenic host, as indicated above
   -Daily CXRs
   -Continue ventilator settings to keep pCO2 <23 in the setting of
   cerebral edema
   # Diffuse cerebral edema:  MRI showing diffuse cortical edema and
   ischemia.  DDX includes anoxic brain injury vs. metabolic insult.
   Patient was hypotensive in the setting of shock, making anoxic brain
   injury highly likely.  Prognosis is grim for a meaningful recover per
   discussion with neurology
   -Neuro consulting
   -hyperventilation with goal pCO2 of 23, and mannitol with goal serum
   osm of >320.  Mannitol currently held for elevated osm
   # Seizure activity: Likely a result of toxic metabolic encephalopathy
   -EEG pending
   # Diffuse pulmonary nodules: DDX includes septic emboli vs. crohn's
   nodules, vs. infection
   -TTE to evaluate for embolic source
   -Continue broad spectrum abx as above
   # Neutropenia: ANC 80, secondary to MTX toxicity
   -Neutropenic precautions
   -Continue broad coverage for PNA
   # Thrombocytopenia: secondary to MTX toxicity, with mucosal bleeding.
   s/p 5 units of platelets with count rising from 10-->50
   -Transfuse platelets for active bleeding
   # Coagulopathy: elevated PT/INR, DIC labs negative.  Likely a result of
   liver injury in the setting of ischemia, s/p 5 units of platelets and 4
   units of FFP
   -Monitor q4H DIC labs
   -Transfuse FFP for active bleeding, cryo for fibrinogen <100
   # ARF: ATN in the setting of hypotension vs. pre-renal failure
    -IVF to keep CVP >12
   -Urine lytes
   # Diffuse mucositis
   - Gelclair
   - Mycelex
   - Diflucan
   # Crohn's disease: Complicated by a rectovaginal fistula and chronic
   blood loss anemia
   -Holding humira in the setting of neutropenia
   # Hypertension
   -Holding BP meds in the setting of Hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-4-10**] 01:23 AM
   Multi Lumen - [**2141-4-10**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-04-11 11:01:00 Physician Attending Progress Note
Chief Complaint: resp failure, hypotension, unresponsiveness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo F w/ Crohn
s ds, short gut syndrome, chronic steroid dependence,
   on TPN, course c/b recent significant GIB treated with MTX, with MTX
   toxicity and Pancytopenia/neutropenia transferred from floor with
   altered mental status/unresponsiveness,  respiratory failure,
   hypotension requiring escalating pressor support, new sz activity now
   with new dilated pupils concerning for worsening/acute CNS process
   24 Hour Events:
 PICC LINE - STOP [**2141-4-10**] 08:05 AM
 URINE CULTURE - At [**2141-4-10**] 11:37 AM
 MULTI LUMEN - STOP [**2141-4-10**] 12:05 PM
 BLOOD CULTURED - At [**2141-4-10**] 12:36 PM
 EEG - At [**2141-4-10**] 03:01 PM
 MAGNETIC RESONANCE IMAGING - At [**2141-4-10**] 08:30 PM
   stat head ct
 diffuse cortical edema
   neuro consulted
   eeg performed and results pending (prelim, minimal brain activity)
   MRI overnight confirms diffuse cortical damage/edema
   had oozing after fem line removal,  episode hematemesis, continued
   bleeding
        transfused 3 prbc, 3 plt, 4 ffp
   pressors weaned
 now on low dose levophed
   History obtained from Medical records, house staff
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Remicade (Intraven.) (Infliximab)
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2141-4-10**] 07:54 PM
   Cefipime - [**2141-4-11**] 05:21 AM
   Metronidazole - [**2141-4-11**] 06:00 AM
   Vancomycin - [**2141-4-11**] 08:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-11**] 08:23 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:  intubated, unresponsive
   Flowsheet Data as of  [**2141-4-11**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35
C (95
   Tcurrent: 33.9
C (93
   HR: 67 (63 - 93) bpm
   BP: 113/68(86) {70/49(58) - 152/91(116)} mmHg
   RR: 21 (21 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 13 (10 - 15)mmHg
   Total In:
                                                                  9,908 mL
                                                                  1,425 mL
   PO:
   TF:
   IVF:
                                                                  7,857 mL
                                                                    767 mL
   Blood products:
                                                                  1,992 mL
                                                                    558 mL
   Total out:
                                                                     80 mL
                                                                     20 mL
   Urine:
                                                                     80 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,828 mL
                                                                  1,405 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.41/15/119/10/-11
   Ve: 10.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Pupils dilated, fixed b/l
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, without JVD
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases, Rhonchorous: )
   Abdominal: Soft, Distended
   Extremities: Right: 3+, Left: 2+, No(t) Cyanosis, No(t) Clubbing,
   anasarca
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: withdraw L foot to
   pain, No(t) Sedated, No(t), absent corneal reflexes/gag, no posturing
   appreciated
   Labs / Radiology
   11.4 g/dL
   51 K/uL
   96 mg/dL
   0.9 mg/dL
   10 mEq/L
   4.4 mEq/L
   65 mg/dL
   111 mEq/L
   140 mEq/L
   31.5 %
   0.7 K/uL
        [image002.jpg]
                             [**2141-4-10**]  01:55 PM
                             [**2141-4-10**]  03:32 PM
                             [**2141-4-10**]  05:48 PM
                             [**2141-4-10**]  07:35 PM
                             [**2141-4-10**]  07:43 PM
                             [**2141-4-10**]  10:53 PM
                             [**2141-4-11**]  12:19 AM
                             [**2141-4-11**]  12:29 AM
                             [**2141-4-11**]  03:09 AM
                             [**2141-4-11**]  04:51 AM
   WBC
   0.5
   0.6
   0.7
   Hct
   20.3
   30.1
   31.4
   31.5
   Plt
   62
   37
   62
   51
   Cr
   1.4
   1.4
   1.5
   0.9
   TCO2
   11
   11
   10
   10
   10
   10
   Glucose
   97
   99
   91
   96
   Other labs: PT / PTT / INR:18.1/40.9/1.7, ALT / AST:148/775, Alk Phos /
   T Bili:83/10.8 d bili 8.7, Differential-Neuts:6.0 %, Band:23.0 %,
   Lymph:12.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:6836 ng/mL, Fibrinogen:657
   mg/dL, Lactic Acid:5.8 mmol/L, Albumin:2.5 g/dL, LDH:1188 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:6.3 mg/dL
   Fluid analysis / Other labs: osms 317
   fibrinogen > 600
   Imaging: mri- difffuse ccerebral edema
   cxr--b/l effusions, et ok, ij r ok, rotated to L
   Microbiology: ngtd
   Assessment and Plan
   61 yo F w/ Crohn
s ds, short gut syndrome, chronic steroid dependence,
   on TPN, course c/b recent significant GIB treated with MTX, with MTX
   toxicity and pancytopenia/neutropenia transferred from floor with
   altered mental status/unresponsiveness, respiratory failure,
   hypotension,  with diffuse cerebral edema on brain imaging
   Main issues include:
   # neuro status
unresponsiveness, ? sz activity, diffuse cerebral edema
   on imaging
   Suspect [**12-31**] hypoxia and hypotension, extremely grave prognosis, with
   impending brain death
   Await f/u final eeg and MRI results and additional input of neuro team
   (c/s appreciated)
   dilantin load, HOB elevated
   family meeting to discuss above results, family aware of grim prognosis
   will conact organ bank though poor candidate given MOSFand ? undx
   lymphoma
   # shock/hypotension
   likely septic initially with multiple infectious risk including
   neutropenia, chronic steroids, TPN--?  pna, line infection (picc now
   out) fungal infection, GI source
   Hypovolemia/blood loss also contributing with
   pancytopenia/thrombocytopenia/anemia, abnl coags
   - continue broad antibx coverage cefepime, vanco, flagyl, caspo
   - continue stress does steroids
   - pressor support, wean as tolerated for MAPS, IVF/Colloid for CVP >
   10, hct > 25, SVO2 > 70%, correction of coagulopathy and for plts >50,
   - cancel tte
   # Respiratory failure
   continue AC vent support
   empiric antbx as above
   has b/l effusions--likely from  third spacing from poor nutritional
   status,
   # ARF-
   likely atn from sepsis + prerenal/hypovolemia/hypotension and sepsis
   renally dose meds
   correct acid base with vent  MV
   #Anemia/pancytopenia
follow cbc and transfuse prbcs, plts, ffp as
   needed for bleeding
   GI input apreciated
   #neutropenia
precautions, NPO
   Continue PCP [**Name Initial (PRE) 617**]
   #transaminitis
follow trend  now possibly w/ shock liver [**12-31**]
   hypotension
   #Crohn's--holding meds [**12-31**] neurotropenia
   #FEN--holding TPN for now, serial labs
   #FAMILY meeting--aware of poor prognosis and now multi-organ system
   failure, continue to update, address goals of care
   ICU Care
   Nutrition:  NPO
   Glycemic Control:   SSI
   Lines:
   Arterial Line - [**2141-4-10**] 01:23 AM
   Multi Lumen - [**2141-4-10**] 06:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   430pm [**4-11**] Family Meeting
   Meeting with family regarding update and goals of care.
   Informed family of new results (MRI/EEG) and unchanged neuro exam
   (without signs of brain function).  Neurology present and discussed
   pt
s grave prognosis of  neuro recovery given diffuse CNS findings and
   EEG without brain activity.    Family  wishes to withdraw ventilatory
   support in am tomorrow.  In event of a change in status
   overnight/cardiac arrest pt is DNR.
   25 min crit care time.